US06159975
Step AAA: 7-(3,3-diethoxypropyl)-pyrido[2,3-b]pyrazine
To a solution of 9-BBN (10.2 mL of a 0.5M solution in tetrahydrofuran) at 0° C. was added dropwise 0.77 mL of acrolein diethyl acetal and the mixture allowed to warm slowly to room temperature. After 15 hours, the mixture was diluted with 12 mL dry tetrahydrofuran followed by the sequential addition of potassium phosphate (1.6 g), palladium(1,1'-bis(diphenylphosphino)ferrocenyl) dichloride (160 mg) and 7-bromo-pyrido[2,3-b]pyrazine (924 mg) and then heated to reflux on an oil bath. After 5 hours, the mixture was cooled to 0° C., diluted with 15 mL benzene and the excess reagents quenched by the addition of 2N sodium hydroxide (3.5 mL) and 30% hydrogen peroxide (2.5 mL). The mixture then extracted with ethyl acetate, washed with brine and the concentrate purified by flash chromatography on silica gel (ethyl acetate:hexane, 1:4; then 1:1; then 4:1) to give the title compound (1.2 g).

reactant | 9-BBN | B1C2CCCC1CCC2 | C8H15B
reactant | acrolein diethyl acetal | 0.77 mL | C(C)OC(C=C)OCC | C7H14O2
reactant | potassium phosphate | 1.6 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 7-bromo-pyrido[2,3-b]pyrazine | 924 mg | BrC1=CC=2C(=NC=CN2)N=C1 | C7H4BrN3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | 7-(3,3-diethoxypropyl)-pyrido[2,3-b]pyrazine | 1.2 g | C(C)OC(CCC1=CC=2C(=NC=CN2)N=C1)OCC | C14H19N3O2
